US06506901B2
2S)-1-(1-Bromo-9H-carbazol-4-yloxy)-3-{[1-(4-methoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol
Prepared from 1-bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.050 g, 0.15 mmol) and (4-aminomethyl-1-piperidinyl) 4-methoxybenzenesulfonamide (0.085 g, 0.3 mmol) of according to procedure used for Example 2 to give 0.035 g of the title compound as a white solid.

reactant | 1-bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.15 mmol, 0.050 g | BrC1=CC=C(C=2C3=CC=CC=C3NC12)OC[C@H]1OC1 | C15H12BrNO2
reactant | (4-aminomethyl-1-piperidinyl) 4-methoxybenzenesulfonamide | 0.3 mmol, 0.085 g | NCC1CCN(CC1)C1=C(C=CC(=C1)OC)S(=O)(=O)N | C13H21N3O3S
product | 1-(1-Bromo-9H-carbazol-4-yloxy)-3-{[1-(4-methoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.035 g | BrC1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CNCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)O | C28H32BrN3O5S
